US04569996
2-[[4-(3-Methoxy-2-pyridyl)butyl]amino]-5-[(6-methyl-3-pyridyl)methyl]-4-(1H)-pyrimidinone
2-[[4-(3-Methoxy-2-pyridyl)butyl]amino]-5-[(6-methyl-3-pyridyl)hydroxymethyl]-4-(1H)-pyrimidinone (0.99 g, 0.0025 mol), triethylamine (0.57 g, 0.0055 mol) and 98% formic acid (0.75 g, 0.015 mol) were stirred at reflux temperature for 41/2 hours. The reaction mixture was cooled, diluted with water (3 ml) and basified with ammonia solution (specific gravity 0.880) to pH 8.5. The aqueous solution was extracted into dichloromethane (2×5 ml); the organic layers were combined, dried over sodium carbonate, filtered and evaporated under reduced pressure to afford a foam. This foam was subjected to medium pressure liquid chromatography (Kieselgel 60, 230-400 Mesh) with methanolic ammonia: dichloromethane (10: 90). The relevant fractions were combined and evaporated under reduced pressure to afford the title compound (0.40 g). Crystallisation form ethanolic HCl afforded 2-[[4-(3-methoxy-2-pyridyl)butyl]amino]-5-[(6-methyl-3-pyridyl)methyl]-4-(1H)-pyrimidinone trihydrochloride as a crystalline solid m.p. 213° C.; nmr of the free base δ(CDCl3) 1.7 (4H, m), 2.5 (3H, s), 2.75 (2H, m), 3.3 (2H, m), 3.6 (2H, s), 3.8 (3H, s), 7.1 (3H, m), 7.4 (1H, s), 7.45 (1H, dd), 8.0 (1H, dd), 8.4 (1H, dd) ppm.

reactant | 2-[[4-(3-Methoxy-2-pyridyl)butyl]amino]-5-[(6-methyl-3-pyridyl)hydroxymethyl]-4-(1H)-pyrimidinone | 0.0025 mol, 0.99 g | COC=1C(=NC=CC1)CCCCNC=1NC=C(C(N1)=O)C(O)C=1C=NC(=CC1)C | C21H25N5O3
reactant | triethylamine | 0.0055 mol, 0.57 g | C(C)N(CC)CC | C6H15N
reactant | formic acid | 0.015 mol, 0.75 g | C(=O)O | CH2O2
reactant | ammonia | N | H3N
reactant | ammonia dichloromethane | N.ClCCl
solvent | water | 3 ml | O | H2O
product | 2-[[4-(3-Methoxy-2-pyridyl)butyl]amino]-5-[(6-methyl-3-pyridyl)methyl]-4-(1H)-pyrimidinone | 0.40 g | COC=1C(=NC=CC1)CCCCNC=1NC=C(C(N1)=O)CC=1C=NC(=CC1)C | C21H25N5O2
